US04788190
(c) 2-(4-CHLOROPHENYL)-2-HYDROXYMETHYLOXIRANE
To a solution of the compound prepared in Example 4(c), β-(4-chlorophenyl)-β-methylene ethanol (1.05g) in chloroform (50 mL) add, with cooling, (ice bath) a solution of m-chloroperbenzoic acid (1.2g) in chloroform. Stir the chloroform solution for 4 hr. Wash the chloroform solution, successively, with aqueous 10% NaHSO3 (to remove excess per acid) followed by aqueous NaHCO3 and finally with water. Dry (Na2SO4) the chloroform solution. Remove the chloroform in vacuo to provide the title compound as a colourless oil (0.83 g). Use the title compound without any further purification in the next reaction.

reactant | β-(4-chlorophenyl)-β-methylene ethanol | 1.05g | ClC1=CC=C(C=C1)C(CO)=C | C9H9ClO
reactant | m-chloroperbenzoic acid | 1.2g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-CHLOROPHENYL)-2-HYDROXYMETHYLOXIRANE | 0.83 g | ClC1=CC=C(C=C1)C1(OC1)CO | C9H9ClO2
